US06630598B2
Production of N-t-butoxycarbonyl-N-methyl-5-chloro-2-nitroaniline
1.01 g of sodium hydride (60% content) was suspended in 18.73 g of tetrahydrofuran and cooled with ice. To the obtained suspension, 22.76 g of a tetrahydrofuran solution containing 2.00 g of 5-chloro-2-nitroaniline was added, stirred for 10 minutes, allowed to stand at room temperature and stirred for 30 minutes. To the obtained mixture, 5.75 g of a tetrahydrofuran solution containing 2.77 g of di-t-butyl dicarbonate was added at room temperature and stirred for 2 hours. To the reaction mixture, 3.74 g of a tetrahydrofuran solution containing 1.86 g of methyl iodine was added at room temperature, heated to 60° C., and stirred for 10 hours. The reaction mixture was added to ice water and extracted with toluene to separate an organic layer and then the organic layer was analyzed by high performance liquid chromatography to find the yield of the desired product was 86%.

reactant | sodium hydride | 1.01 g | [H-].[Na+]
reactant | 5-chloro-2-nitroaniline | 2.00 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | di-t-butyl dicarbonate | 2.77 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl iodine | 1.86 g | CI | CH3I
solvent | tetrahydrofuran | 18.73 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.74 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.75 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 22.76 g | O1CCCC1 | C4H8O
product | N-t-butoxycarbonyl-N-methyl-5-chloro-2-nitroaniline | C(C)(C)(C)OC(=O)N(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])C | C12H15ClN2O4
